US07449582B2
A mixture of N-[2,4-dichloro-3-(2-methanesulfonyl-8-methyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-6-yl)-phenyl]-3-trifluoromethyl-benzamide (20 mg, 0.035 mmol) and 3-(1-hydroxyethyl)-aniline (50 mg, 0.364 mmol) is heated at 120° C. for ten minutes. The mixture is diluted with EtOAc and washed with saturated K2CO3, brine and water. The organic layer is dried, filtered and concentrated to give crude product, which is purified by prep-HPLC to give N-(2,4-dichloro-3-{2-[3-(1-hydroxy-ethyl)-phenylamino]-8-methyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-6-yl}-phenyl)-3-trifluoromethyl-benzamide as a white solid. (17.9 mg, 81.4%). 1H NMR (CD3OD): δ 10.50 (s, 1H), 8.57 (d, 1H), 8.52 (s, 1H), 8.41 (s, 1H), 8.19 (s, 1H), 8.06 (d, 1H), 7.92 (s, 1H), 7.86 (d, 1H), 7.68 (t, 1H), 7.59 (d, 1H), 7.56 (s, 1H), 7.52 (d, 1H), 7.41 (t, 1H), 7.21 (s, 1H), 7.20 (d, 1H), 4.98 (q, 1H), 3.83 (s, 3H), 1.54 (d, 2H); MS m/z 629.10 (M+1).

reactant | N-[2,4-dichloro-3-(2-methanesulfonyl-8-methyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-6-yl)-phenyl]-3-trifluoromethyl-benzamide | 0.035 mmol, 20 mg | ClC1=C(C=CC(=C1C1=CC2=C(N=C(N=C2)S(=O)(=O)C)N(C1=O)C)Cl)NC(C1=CC(=CC=C1)C(F)(F)F)=O | C23H15Cl2F3N4O4S
reactant | 3-(1-hydroxyethyl)-aniline | 0.364 mmol, 50 mg | OC(C)C=1C=C(N)C=CC1 | C8H11NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-(2,4-dichloro-3-{2-[3-(1-hydroxy-ethyl)-phenylamino]-8-methyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-6-yl}-phenyl)-3-trifluoromethyl-benzamide | ClC1=C(C=CC(=C1C1=CC2=C(N=C(N=C2)NC2=CC(=CC=C2)C(C)O)N(C1=O)C)Cl)NC(C1=CC(=CC=C1)C(F)(F)F)=O | C30H22Cl2F3N5O3
